US04402972
55 g of tert-butyl (1R,cis) 2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane-carboxylate were introduced into 550 cm3 of tetrahydrofuran and the mixture was cooled to -70° C. 132 cm3 of a 20% solution of butyllithium in cyclohexane were added over 40 minutes to the mixture which was stirred for 30 minutes at -65° C. 12.5 cm3 of methyl chloroformate were then added thereto and after 2 hours reaction at -70° C., the temperature was allowed to rise again to -20° C. The mixture was poured into an aqueous solution of monosodium phosphate and the mixture was extracted with ether. The organic phase was washed, dried and evaporated to dryness under reduced pressure. 38.3 g of the residue were chromatographed over silica gel and was eluted with an 8-2 cyclohexane-ethyl acetate mixture to obtain 17.2 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-[2-(methoxy carbonyl)-ethynyl]-cyclopropane-carboxylate.

reactant | tert-butyl (1R,cis) 2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane-carboxylate | 55 g | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)OC(C)(C)C)C | C12H18Br2O2
reactant | butyllithium | C(CCC)[Li]
reactant | methyl chloroformate | 12.5 cm3 | ClC(=O)OC | C2H3ClO2
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 550 cm3 | O1CCCC1 | C4H8O
product | tert.-butyl (1R,cis) 2,2-dimethyl-3-[2-(methoxy carbonyl)-ethynyl]-cyclopropane-carboxylate | 17.2 g | CC1([C@@H]([C@@H]1C#CC(=O)OC)C(=O)OC(C)(C)C)C | C14H20O4
